US07544697B2
A modification of the method described in Example 1283 was used to couple 4-bromo-5-(2-cyano-2-methylpropyl)-1-propyl-1H-pyrazole-3-carbonitrile (1.48 g, 5.00 mmol) with 2-aminophenylboronic acid hydrochloride (1.73 g, 10.0 mmol). The reaction was completed in one hour. The coupling product was purified by IFC (silica cartridge, eluting with 40% to 60% ethyl acetate in hexane). The reaction with hydrogen chloride was heated at reflux for a total of about seven hours. 3-(4-Amino-2-propyl-2H-pyrazolo[3,4-c]quinolin-1-yl)-2,2-dimethylpropanenitrile (840 mg) was obtained as a white solid, mp 248-250° C.

reactant | 4-bromo-5-(2-cyano-2-methylpropyl)-1-propyl-1H-pyrazole-3-carbonitrile | 5.00 mmol, 1.48 g | BrC=1C(=NN(C1CC(C)(C)C#N)CCC)C#N | C12H15BrN4
reactant | 2-aminophenylboronic acid hydrochloride | 10.0 mmol, 1.73 g | Cl.NC1=C(C=CC=C1)B(O)O
product | 3-(4-Amino-2-propyl-2H-pyrazolo[3,4-c]quinolin-1-yl)-2,2-dimethylpropanenitrile | 840 mg | NC1=NC=2C=CC=CC2C=2C1=NN(C2CC(C#N)(C)C)CCC | C18H21N5
